US08314091B2
A: N-tert-Butyl-3-((4-(2-fluoro-4-nitrobenzoyl)piperazin-1-yl)methyl)benzamide
2-Fluoro-4-nitrobenzoic acid (5 g, 27.01 mmol) was dissolved in acetonitrile (150 mL) and triethylamine (7.53 mL, 54.02 mmol). N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (7.8 g, 40.52 mmol) was added, followed by N-tert-butyl-3(piperazin-1-ylmethyl)benzamide (7.44 g, 27.01 mmol). The reaction was stirred at room temperature for 18 hours and concentrated under vacuum. The residue was dissolved in ethyl acetate, filtered through dicalite, washed consecutively with water (×2) and brine and concentrated under vacuum. The product was purified by strong cation exchange chromatography, eluting macroporous polystyrene sulfonic acid with 2M ammonia in methanol. The resulting solution was concentrated under vacuum to afford the title compound as a pale yellow oil (2.6 g). MS (ESI) m/z 443.7 [M+H]+

reactant | 2-Fluoro-4-nitrobenzoic acid | 27.01 mmol, 5 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | triethylamine | 54.02 mmol, 7.53 mL | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 40.52 mmol, 7.8 g | Cl.CN(CCCN=C=NCC)C
reactant | N-tert-butyl-3(piperazin-1-ylmethyl)benzamide | 27.01 mmol, 7.44 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCNCC1)=O | C16H25N3O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | N-tert-Butyl-3-((4-(2-fluoro-4-nitrobenzoyl)piperazin-1-yl)methyl)benzamide | 2.6 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=C(C=C(C=C1)[N+](=O)[O-])F)=O)=O | C23H27FN4O4
